US05498774
Synthesis of α-(2-phenyl-imidazo[1,2-a]pyridin-8-ylcarbonylamino)-(2-furyl)acetonitrile (Compound No. 2-24)
2-Phenyl-imidazo[1,2-a]pyridine-8-carboxylic acid (1.5 g, 5.5 m moles) was added to dried tetrahydrofuran (100 ml), and carbonyldiimidazole (1.5 g, 5.5 m moles) was added slowly thereto with stirring at room temperature in an atmosphere of nitrogen gas. The mixture was stirred at room temperature for 8 hours, and α-(2-furyl)-60 -aminoacetonitrile (0.7 g, 5.5 m moles) was added to the mixture and reacted at room temperature for 5 hours. The solvent was removed from the reaction mixture under reduced pressure, and water (20 ml) and ethyl acetate (50 ml) were added to the residue and stirred. The organic layer was separated, dried over anhydrous magnesium sulfate and then concentrated. The concentrate was purified by column chromatography on silica gel (eluent: ethyl acetate/n-hexane=1/1) to give the object compound (0.9 g, yield 64%) as crystals. m.p. 197°-199° C.

reactant | 2-Phenyl-imidazo[1,2-a]pyridine-8-carboxylic acid | 1.5 g | C1(=CC=CC=C1)C=1N=C2N(C=CC=C2C(=O)O)C1 | C14H10N2O2
reactant | carbonyldiimidazole | 1.5 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | α-(2-phenyl-imidazo[1,2-a]pyridin-8-ylcarbonylamino)-(2-furyl)acetonitrile | 0.9 g, yield 64% | C1(=CC=CC=C1)C=1N=C2N(C=CC=C2C(=O)NC(C#N)C=2OC=CC2)C1 | C20H14N4O2
